US09371282B2
Ammonium acetate (10.0 g, 130 mmol) followed by 4-methyl-3-(2-oxo-propyl)-pyridine-2-carboxylic acid tert-butylamide (1.61 g, 6.48 mmol) are added to acetic acid (20 mL) and the reaction mixture is heated at 110° C. for 3 h. The reaction mixture is cooled to RT and 20% NaOH is added until pH 6-7. The aqueous layer is extracted with DCM (3 times) and the combined organic layers are washed with brine, dried and evaporated under reduce pressure to furnish 4,6-dimethyl-[1,7]naphthyridin-8-ol (1.12 g, 99%) that is used as such.

reactant | Ammonium acetate | 130 mmol, 10.0 g | C(C)(=O)[O-].[NH4+]
reactant | 4-methyl-3-(2-oxo-propyl)-pyridine-2-carboxylic acid tert-butylamide | 6.48 mmol, 1.61 g | C(C)(C)(C)NC(=O)C1=NC=CC(=C1CC(C)=O)C | C14H20N2O2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4,6-dimethyl-[1,7]naphthyridin-8-ol | 1.12 g, 99% | CC1=CC=NC2=C(N=C(C=C12)C)O | C10H10N2O
